US07230023B2
(5) (1R,2R)-2-[[trans-2-[(1E,3E)-4-(4-Cyano-2-fluorophenyl)-1,3-butadienyl]-1,3-dioxan-5-yl]thio]-1-(2,4-difluorophenyl)-1-[(1H-1,2,4-triazol-1-yl)methyl]propyl 2-[[bis(allyloxy)phosphoryl]oxymethyl]-5-methylbenzoate
According to a similar procedure to that described in Example 4-(6), 4-methoxybenzyl 2-[[bis(allyloxy)phosphoryl]oxymethyl]-5-methylbenzoate (690 mg, 1.54 mmol) was treated with trifluoroacetic acid to afford 2-[[bis(allyloxy)phosphoryl]oxymethyl]-5-methylbenzoic acid as a crude product. According to a similar procedure to that described in Example 4-(6), the above product was treated with oxalyl chloride and N,N-dimethylformamide to afford 2-[[bis(allyloxy)phosphoryl]oxymethyl]-5-methylbenzoyl chloride as a crude product. According to a similar procedure to that described in Example 1-(12), 4-[(1E,3E)-4-[trans-5-[[(1R,2R)-2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]-1,3-butadienyl]-3-fluorobenzonitrile (670 mg, 1.23 mmol) described in Reference example 1 was treated with sodium hydride and then reacted with the crude 2-[[bis(allyloxy)phosphoryl]oxymethyl]-5-methylbenzoyl chloride (the whole amount) obtained above to afford, after purification by column chromatography, the title compound (448 mg, 43% yield) as a pale yellow, candy-like material.

reactant | 4-[(1E,3E)-4-[trans-5-[[(1R,2R)-2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]-1,3-butadienyl]-3-fluorobenzonitrile | 1.23 mmol, 670 mg | FC1=C(C=CC(=C1)F)[C@]([C@@H](C)S[C@H]1CO[C@@H](OC1)/C=C/C=C/C1=C(C=C(C#N)C=C1)F)(CN1N=CN=C1)O | C27H25F3N4O3S
reactant | sodium hydride | [H-].[Na+]
reactant | 2-[[bis(allyloxy)phosphoryl]oxymethyl]-5-methylbenzoyl chloride | C(C=C)OP(=O)(OCC=C)OCC1=C(C(=O)Cl)C=C(C=C1)C | C15H18ClO5P
product | (1R,2R)-2-[[trans-2-[(1E,3E)-4-(4-Cyano-2-fluorophenyl)-1,3-butadienyl]-1,3-dioxan-5-yl]thio]-1-(2,4-difluorophenyl)-1-[(1H-1,2,4-triazol-1-yl)methyl]propyl 2-[[bis(allyloxy)phosphoryl]oxymethyl]-5-methylbenzoate | 448 mg, 43% yield | C(C=C)OP(=O)(OCC=C)OCC1=C(C(=O)O[C@@]([C@@H](C)S[C@H]2CO[C@@H](OC2)\C=C\C=C\C2=C(C=C(C=C2)C#N)F)(CN2N=CN=C2)C2=C(C=C(C=C2)F)F)C=C(C=C1)C | C42H42F3N4O8PS
